* C:\Documents and Settings\Michael Walsh\My Documents\GitHub\SoilMoistureMan\Simulations\SoilMoisture_AstableMultivibrator_PNP_V007.sxsch
*#SIMETRIX
V1 VCC 0 3
R1 Q4_C R1_N 1K
R2 Q4_C R2_N 100k
R3 Q4_C R3_N 100k
R4 Q4_C R4_N 1k
R5 VCC R5_N 600k
R6 VCC R6_N 100k
R8 R5_N 0 100k
R9 VCC R9_N 100k
R10 Q4_B R9_N 10k
Q1 R1_N R3_N 0 0 QBC847C/PS
Q2 R4_N R2_N 0 0 QBC847C/PS
Q3 R6_N R5_N 0 0 Q2N2222
Q4 Q4_C Q4_B VCC 0 Q2N2904
Q5 R9_N R6_N 0 0 Q2N2222
C1 R2_N R1_N 100u  
C2 R4_N R3_N 10u IC=0  BRANCH={IF(ANALYSIS=2,1,0)}
.GRAPH Q4_C axisType="auto" persistence=-1 curveLabel="ASTABLE_PWR" xLog="auto" yLog="auto"  nowarn=true' 
.TRAN 2m 10

